US04022900
5-(2-Chlorobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline (M-63)
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (9.2 g) prepared as in Example 4 was dissolved in dry benzene (100 ml) and 0.5 g of dry potassium bicarbonate was added. A 0.1 mole excess of 2-chlorobenzoyl chloride was dissolved in dry benzene (100 ml) and this solution was added to the solution of the tetrahydroisoquinoline. A white precipitate formed immediately and the mixture was then refluxed for 1 hour. The precipitate was collected by filtration and was washed with 10% sodium carbonate solution followed by water. The washings were discarded and the remaining residue was recrystallized from ethanol to yield 12.6 g of the desired product as fluffly, crystalline plates, m.p., 189.5°-191.5° C.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 9.2 g | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | potassium bicarbonate | 0.5 g | C([O-])(O)=O.[K+]
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-(2-Chlorobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 12.6 g | ClC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=CC=C1 | C17H17ClN2O
